US07560551B2
To 1,1′-bis(diphenylphosphoino)ferrocene-palladium dichloride (0.046 g, 0.063 mmol), 1-(4 -methoxybenzyl)-4-chlorophthalazine (0.360 g, 1.3 mmol), and phenylboronic acid (0.39 g, 3.2 mmol) was added dioxane (4.0 mL) and sodium carbonate (2.0M, aq)(1.9 ml, 3.8 mmol). The resulting mixture was heated to 100° C. in a sealed tube for 1 hour. The reaction was diluted with EtOAc and extracted with water and brine. The organic layers were dried over sodium sulfate, filtered, concentrated, and the crude was purified by ISCO silica gel chromatography (10-100% EtOAc/hexanes, 40 g column). Concentrated the product fractions to yield 1-(4-methoxybenzyl)-4-phenylphthalazine as a light yellow solid. MS m/z=327 [M+1]+. Calc'd for C22H18N2O: 326.40.

reactant | 1-(4 -methoxybenzyl)-4-chlorophthalazine | 1.3 mmol, 0.360 g | COC1=CC=C(CC2=NN=C(C3=CC=CC=C23)Cl)C=C1 | C16H13ClN2O
reactant | phenylboronic acid | 3.2 mmol, 0.39 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | dioxane | 4.0 mL | O1CCOCC1 | C4H8O2
reactant | sodium carbonate | 3.8 mmol, 2.0M, 1.9 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(4-methoxybenzyl)-4-phenylphthalazine | COC1=CC=C(CC2=NN=C(C3=CC=CC=C23)C2=CC=CC=C2)C=C1 | C22H18N2O
